US07622481B2
(a) 8-Bromo-isoquinoline-N-oxide
A solution of 8-bromo-isoquinoline (prepared by the method of F. T. Tyson, J.A.C.S., 1939, 61, 183) (1.25 g, 6 mmol) in acetic acid (5 ml) was treated with 27% aqueous hydrogen peroxide solution (1.8 ml) and heated at 75° C. overnight. The mixture was evaporated and the residue partitioned between aqueous sodium carbonate solution and dichloromethane, re-extracting with dichloromethane twice more. The combined organic extracts were dried and evaporated. The residue was triturated with ether/petrol and isolated by filtration (1.14 g, 85%).

reactant | 8-bromo-isoquinoline | BrC=1C=CC=C2C=CN=CC12 | C9H6BrN
reactant | hydrogen peroxide | 1.8 ml | OO | H2O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 8-Bromo-isoquinoline-N-oxide | BrC=1C=CC=C2C=C[N+](=CC12)[O-] | C9H6BrNO
